US07820649B2
Lithium aluminium hydride (475 mg, 12.49 mmol) was added portionwise to a stirred solution of 3-ethylperhydro-1,4-diazepin-2-one (740 mg, 5.20 mmol) in THF (10 mL). After the resultant effervescence had subsided, the reaction mixture was heated at 50-60° C. for 3 h. The reaction mixture was cooled and quenched by the slow addition of water and 10% NaOH (aq.). The reaction mixture was diluted with diethyl ether (20 mL) and filtered through celite. The filter cake was washed thoroughly with THF (50 mL), diethyl ether (50 mL), THF (50 mL) and diethyl ether (50 mL). Evaporation under reduced pressure afforded 2-ethylperhydro-1,4-diazepine (INTERMEDIATE X.1) (615 mg, 5.20 mmol), 92%).

reactant | Lithium aluminium hydride | 12.49 mmol, 475 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-ethylperhydro-1,4-diazepin-2-one | 5.20 mmol, 740 mg | C(C)C1C(NCCCN1)=O | C7H14N2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-ethylperhydro-1,4-diazepine | 5.20 mmol, 615 mg | C(C)C1NCCCNC1 | C7H16N2
